US06329366B1
(1-Methylethyl)sulfamoyl chloride (6.63 g, 0.034 mol) was added dropwise to a solution of 4-(ethylsulfonyl)benzene amine (6 g, 0.032 mol) and triethylamine (4.87 ml, 0.035 mol) in dry dichloromethane (100 ml) at 0° C. under a nitrogen atmosphere. After addition, the resultant mixture was allowed to warm to room temperature and was stirred for 6 hr. The reaction mixture was then washed with water (2×50 ml). The organic extracts were combined, dried (MgSO4) and concentrated in vacuo to yield N-(4-ethylsulfonylphenyl)-N′-(1-methylethyl)sulfamide as a white solid. δ(1H NMR, DMSO, ppm): 1.05 (6H, d), 1.10 (3H, t), 3.25 (2H, q), 3.40 (1H, m), 7.40 (2H, d), 7.80 (3H, m).

reactant | (1-Methylethyl)sulfamoyl chloride | 0.034 mol, 6.63 g | CC(C)NS(=O)(=O)Cl | C3H8ClNO2S
reactant | 4-(ethylsulfonyl)benzene amine | 0.032 mol, 6 g | C(C)S(=O)(=O)C1=CC=C(C=C1)N | C8H11NO2S
reactant | triethylamine | 0.035 mol, 4.87 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-(4-ethylsulfonylphenyl)-N′-(1-methylethyl)sulfamide | C(C)S(=O)(=O)C1=CC=C(C=C1)NS(=O)(=O)NC(C)C | C11H18N2O4S2
